US07186729B2
Step 1: Piperazine-1,2,4-tricarboxylic acid 1-tert-butyl ester 4-(9H-fluoren-9-ylmethyl) ester 2-methyl ester
To a solution of piperazine-1,2,4-tricarboxylic acid 1-tert-butyl ester 4-(9H-fluoren-9-ylmethyl)ester (2.21 mmol) in toluene: methanol (9:1) was added equimolar trimethylsilyldiazomethane (2.0 M in hexanes) and the resulting mixture was stirred overnight at room temperature. The reaction mixture was concentrated in vacuo and purified using gradient elution from hexane/ethyl acetate (5%) to hexane/ethyl acetate (30%). ESI-MS m/z: 467 (M+1), UV retention time: 3.04 min.

reactant | piperazine-1,2,4-tricarboxylic acid 1-tert-butyl ester 4-(9H-fluoren-9-ylmethyl)ester | 2.21 mmol | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CC(N(CC1)C(=O)OC(C)(C)C)C(=O)O | C25H28N2O6
reactant | trimethylsilyldiazomethane | 2.0 M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | toluene methanol | C1(=CC=CC=C1)C.CO
product | Piperazine-1,2,4-tricarboxylic acid 1-tert-butyl ester 4-(9H-fluoren-9-ylmethyl) ester 2-methyl ester | COC(=O)C1N(CCN(C1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)OC(C)(C)C | C26H30N2O6
